US05098932
Using the procedure described in Example 1, 2-[5-nitro-3-(3-phenylprop-2-ynyloxy)phenyl]propane-1,2-diol was reacted with acetone to give 2,2,4-trimethyl-4-[5-nitro-3-(3-phenylprop-2-ynyloxy)phenyl]-1,3-dioxolane in 95% yield, as an oil.

reactant | 2-[5-nitro-3-(3-phenylprop-2-ynyloxy)phenyl]propane-1,2-diol | [N+](=O)([O-])C=1C=C(C=C(C1)C(CO)(C)O)OCC#CC1=CC=CC=C1 | C18H17NO5
reactant | acetone | CC(=O)C | C3H6O
product | 2,2,4-trimethyl-4-[5-nitro-3-(3-phenylprop-2-ynyloxy)phenyl]-1,3-dioxolane | 95% yield | CC1(OCC(O1)(C1=CC(=CC(=C1)[N+](=O)[O-])OCC#CC1=CC=CC=C1)C)C | C21H21NO5
